US04619780
PREPARATION OF 4-(2-BORNYLOXY)-2-BUTEN-1-OL
Into a two liter reaction vessel equipped with stirrer, thermometer, heating mantel and reflux condenser is placed 1000 grams (7.35 moles) of 2-pentene-1,4-diol and 15 grams of boron trifluoride etherate. The reaction mass is then heated to 80° C. Over a period of two hours while maintaining the reaction mass at 80° C., 500 grams (3.7 moles) of camphene is added. The reaction is continued to be stirred at 80° C. for a period of 12.5 hours after the feeding of the camphene.

reactant | 2-pentene-1,4-diol | 7.35 moles, 1000 grams | C(C=CC(C)O)O | C5H10O2
reactant | boron trifluoride etherate | 15 grams | B(F)(F)F.CCOCC
reactant | camphene | 3.7 moles, 500 grams | C12C(C)(C)C(=C)C(CC1)C2 | C10H16
product | 4-(2-BORNYLOXY)-2-BUTEN-1-OL | C12(C(CC(CC1)C2(C)C)OCC=CCO)C | C14H24O2
